*  1SV149 PSpice Compatible Model
*  Date     : 20/10/2020
*  Author: Zabb Csaba
*  C1V/C8V 500pF/20pF Varicap 
.SUBCKT 1SV149 A K
D1 A K dmodel
E1 2 0 value={-4.00888*(v(A)-v(K)-0.191433)}
R1 2 0 1e12
D2 3 0 d1mod
V1 4 3 0
E2 4 0 2 0 1
G1 0 5 value={i(V1)+1}
D3 5 0 d1mod
E3 6 0 value={0.191433-0.249446*v(5)}
R2 6 0 1e12
V2 6 7 0
D4 7 0 dcjmod
G2 A K value={i(V2)}
.model dmodel d(IS=6.62255e-15 RS=0.09585 N=1.02933 EG=1.19084
+XTI=3.00208 BV=15 IBV=0.000999997 TT=2.01517e-08
+KF=0 AF=0.1)
.model d1mod d (is=1, n=38.75969, rs=0.01)
.model dcjmod d (is=1e-25 n=10
+ cjo=4.54e-9 vj=0.4 m=1.713 fc=0.5)
.ends 1SV149
*